US07411072B2
5-(2-Methyl-benzyl)-10,11-dihydro-5H-dibenzo[a,d]cycloheptene
Add the 5-(2-methyl-benzylidene)-10,11-dihydro-5H-dibenzo [a,d]cycloheptene (0.19 g, 0.64 mmol) to a mixture of 10% Pd/C (0.075 g) suspended in absolute ethanol (4.0 mL) and ethyl acetate (2.0 mL) and hydrogenate under a balloon of hydrogen at room temperature and pressure. Stir for 17 h, remove the catalyst via filtration through a pad of Celite, evaporate the filtrate and pass through a plug of silica gel equilibrated with hexanes. Concentrate the filtrate to give the title product: MS (m/e) 298 (M+). Analysis for C23H22: Calcd: C, 91.99 H, 7.39. Found: C, 91.95 H, 7.39.

reactant | 5-(2-methyl-benzylidene)-10,11-dihydro-5H-dibenzo [a,d]cycloheptene | 0.64 mmol, 0.19 g | CC1=C(C=C2C3=C(CCC4=C2C=CC=C4)C=CC=C3)C=CC=C1 | C23H20
reactant | ethyl acetate | 2.0 mL | C(C)(=O)OCC | C4H8O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 4.0 mL | C(C)O | C2H6O
catalyst | Pd/C | 0.075 g | [Pd] | Pd
product | 5-(2-Methyl-benzyl)-10,11-dihydro-5H-dibenzo[a,d]cycloheptene | CC1=C(CC2C3=C(CCC4=C2C=CC=C4)C=CC=C3)C=CC=C1 | C23H22
